US08071584B2
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(1-pyrrolidinylmethyl)-3-thienyl]-1H-indole-7-carboxamide
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide (30 mg, 0.070 mmol) was dissolved in dimethyl sulfoxide (1.5 mL) and put in a microwave vial. The mixture was stirred and 1-2 drops of acetic acid, and pyrrolidine (0.058 mL, 0.697 mmol) was added. Stirred for 30 minutes at 23° C., before adding sodium triacetoxyborohydride polymer bound (299 mg, 0.697 mmol). The vial was sealed using a silicon septum, and the mixture left stirring overnight at 23° C. The mixture was quenched with water, extracted with DCM, the DCM solution was evaporated to dryness, and the resulting mixture was rerun through the same process: 1.5 mL of DMSO, 1 drop of glacial acetic acid, and 0.577 mL of pyrrolidine. Left stirring 30 min and then 299 mg of polymer bound sodium triacetoxyborohydride was added and the mixture was left stirring 16 h. The sodium triacetoxyborohydride polymer bound was removed by filtration. The mixture was dissolved in 1 mL of DMSO, and the product was purified by preparative HPLC (NH4OH buffer). The desired fractions were concentrated, giving 6 mg of the title compound.

reactant | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide | 0.070 mmol, 30 mg | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)C=O)C(=O)N)(=O)=O)C | C21H22N2O4S2
reactant | pyrrolidine | 0.697 mmol, 0.058 mL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dimethyl sulfoxide | 1.5 mL | CS(=O)C | C2H6OS
catalyst | acetic acid | 1-2 drops | C(C)(=O)O | C2H4O2
product | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(1-pyrrolidinylmethyl)-3-thienyl]-1H-indole-7-carboxamide | 6 mg | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)CN1CCCC1)C(=O)N)(=O)=O)C | C25H31N3O3S2
